US09278973B2
To a solution of 3-(4-fluorophenyl)-1H-1,2,4-triazol-5-amine (100 mg, 0.56 mmol) in diphenyl ether (1 ml) was added ethyl 3-(1-ethyl-1H-indazol-5-yl)-3-oxopropanoate (400 mg, 1.540 mmol) and TsOH (6 mg, 0.03 mmol), and the resulting mixture was strirred for 2.5 h at 170° C. The reaction mixture was then quenched by the addition of ethyl ether (8 ml). The solids were collected by filtration and washed with dichloromethane (5 ml) to afford 5-(1-ethyl-1H-indazol-5-yl)-2-(4-fluorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a light yellow solid (69 mg, 24%).

reactant | 3-(4-fluorophenyl)-1H-1,2,4-triazol-5-amine | 0.56 mmol, 100 mg | FC1=CC=C(C=C1)C1=NNC(=N1)N | C8H7FN4
reactant | ethyl 3-(1-ethyl-1H-indazol-5-yl)-3-oxopropanoate | 1.540 mmol, 400 mg | C(C)N1N=CC2=CC(=CC=C12)C(CC(=O)OCC)=O | C14H16N2O3
reactant | TsOH | 0.03 mmol, 6 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | diphenyl ether | 1 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 5-(1-ethyl-1H-indazol-5-yl)-2-(4-fluorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 69 mg, 24% | C(C)N1N=CC2=CC(=CC=C12)C=1NC=2N(C(C1)=O)N=C(N2)C2=CC=C(C=C2)F | C20H15FN6O
